Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Naprosyn / Motrin / sulfamethoxazole-trimethoprim / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug) / gluten / ibuprofen / 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ yo female w/ PMH of celiac disease and 
PSH of total hysterectomy for large benign ovarian growth 
presenting with bilateral lower quadrant abdominal pain w/ 
outside CT imaging suggestive of perforated sigmoid
diverticulitis w/ pneumoperitoneum and abscess along bladder 
dome. 

The patient states that her symptoms began on ___, when 
she suddenly experienced ___ pain in her abdomen that radiated 
to her chest and shoulders which she initially thought was 
related to her celiac disease. She had nausea, dry heaves, 
chills, and felt feverish but denies vomiting. Temperature
measured at home was 97.9. The patient typically has daily BM, 
but last moved her bowels on ___, and has passed gas 
intermittently since but only with significant effort. In 
addition, she says that her ventral hernia seems to be 
protruding more out of her abdomen. 

She presented to urgent care today where CT imaging suggested 
perforated diverticulitis w/ pneumoperitoneum and 2.4cm abscess 
along bladder dome, and ECG showed atrial fibrillation. The 
patient states that she was once told that she had atrial 
fibrillation following anesthesia due to low K+. However, she 
was
not aware of atrial fibrillation outside of that setting, and 
does not take medication for rate control. Her abdominal pain 
has decreased to a ___ on presentation to ED and is more 
pronounced on her RLQ than LLQ. She last ate this morning, ___. 


 
Past Medical History:
Past Medical History:  
-HTN
-Celiac Disease

Past Surgical History:
-Left Knee Replacement
-Total Hysterectomy through ex lap, supraumbilical incision

 
Social History:
___
Family History:
mother with uterine cancer
DM
 
Physical Exam:
Admission Physical Exam:  

Vitals-  
Pain: 6, T:98, HR:130, BP:109/73, RR:16, O2: 96%RA
GENERAL: AOx3, NAD
HEENT: NC AT 
NECK: Thyroid WNL,  No cervical LAD.
CARDIAC: Irregular rhythm, tachycardic
LUNGS: CTAB, no W/R/R
ABDOMEN: Hypoactive BS, mildly distended, moderately tender to
deep palpation in all four quadrants more pronounced on lower
quadrants bilaterally (examined after receiving narcotics),
RLQ>LLQ, ventral hernia reducible w/ no overlying skin changes,
ex lap midline hysterectomy scar well healed, no 
rebound/guarding
EXTREMITIES: No edema

Discharge Physical Exam:
VS: 98.2 PO BP: 110/65 HR: 68, RR: 16 O2: 95% RA 
GENERAL: A+Ox3, NAD
HEENT: no scleral icterus, mucous membranes moist
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation
EXTREMITIES: warm, well-perfused, no edema b/l

 
Pertinent Results:
IMAGING:

___: EKG:
Atrial fibrillation with a rapid ventricular response and one 
premature 
ventricular complex. Compared to tracing #1 the heart rate is 
slower and 
ventricular ectopy is seen. There are borderline low limb lead 
and 
precordial lead voltages seen on both ECG's. 

___: CT Abdomen/pelvis:

1. Perforated sigmoid diverticulitis with pneumoperitoneum and 
2.4 cm abscess along the bladder dome. 
2. Reactive wall thickening along the bladder dome.  No evidence 
for 
colovesicular fistula. 
3. Complex ventral hernia containing fat, transverse colon and 
extraluminal locules of gas.  Multiple additional ventral 
abdominal hernias containing fat and extraluminal air are also 
noted. 

___: CXR:
No acute cardiopulmonary abnormality. 
  
LABS:

___ 10:10PM   GLUCOSE-90 UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-24 ANION GAP-15
___ 10:10PM   CALCIUM-8.2* PHOSPHATE-3.1 MAGNESIUM-1.8
___ 10:10PM   WBC-7.4 RBC-3.67* HGB-11.3 HCT-35.7 MCV-97 
MCH-30.8 MCHC-31.7* RDW-13.1 RDWSD-46.6*
___ 10:10PM   NEUTS-69.5 LYMPHS-15.8* MONOS-9.1 EOS-4.1 
BASOS-0.5 IM ___ AbsNeut-5.12 AbsLymp-1.16* AbsMono-0.67 
AbsEos-0.30 AbsBaso-0.04
___ 10:10PM   PLT COUNT-240
___ 07:10PM   GLUCOSE-96 UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-108 TOTAL CO2-23 ANION GAP-15
___ 07:10PM   CALCIUM-8.0* PHOSPHATE-3.2 MAGNESIUM-1.8
___ 07:10PM   WBC-8.2 RBC-3.73* HGB-11.5 HCT-35.9 MCV-96 
MCH-30.8 MCHC-32.0 RDW-13.0 RDWSD-45.9
___ 07:10PM   NEUTS-72.5* LYMPHS-14.6* MONOS-8.2 EOS-3.4 
BASOS-0.6 IM ___ AbsNeut-5.90 AbsLymp-1.19* AbsMono-0.67 
AbsEos-0.28 AbsBaso-0.05
___ 07:10PM   PLT COUNT-235
___ 01:07AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:07AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:07AM URINE  RBC-0 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 01:07AM URINE  MUCOUS-RARE
___ 06:58PM   LACTATE-1.2
___ 06:40PM   GLUCOSE-137* UREA N-25* CREAT-0.9 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-24 ANION GAP-17
___ 06:40PM   ALT(SGPT)-31 AST(SGOT)-21 ALK PHOS-88 TOT 
BILI-0.7
___ 06:40PM   LIPASE-12
___ 06:40PM   ALBUMIN-4.1
___ 06:40PM   WBC-11.2*# RBC-4.45 HGB-14.0 HCT-42.9 MCV-96 
MCH-31.5 MCHC-32.6 RDW-13.1 RDWSD-46.5*
___ 06:40PM   NEUTS-67.3 ___ MONOS-9.4 EOS-1.4 
BASOS-0.7 IM ___ AbsNeut-7.56* AbsLymp-2.24 AbsMono-1.05* 
AbsEos-0.16 AbsBaso-0.08
___ 06:40PM   PLT COUNT-295
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F w/ PMH of celiac disease and PSH of 
total hysterectomy for large benign ovarian growth presenting 
with bilateral lower quadrant abdominal pain w/ outside CT 
imaging suggestive of perforated sigmoid diverticulitis w/ 
pneumoperitoneum and 2.4 cm abscess along the bladder dome.  WBC 
was elevated to 11,000. The patient had a benign physical exam. 
The patient had an ECG which showed atrial fibrillation.  The 
patient reported atrial fibrillation in the past attributed to 
low potassium following anesthesia, but was not aware of afib 
outside that setting and takes no anticoagulation. The patient 
was admitted to the Acute Care Surgery service for further 
medical care. 

On HD1, the patient was placed on bowel rest and was started on 
IV fluids and IV ciprofloxacin and flagyl. She was placed on 
telemetry class II to monitor for atrial fibrillation 
arrhythmia. On HD2, the patient passed flatus and had a BM.  She 
was started on a regular diet which was well tolerated as well 
as oral ciprofloxacin and flagyl.  

The patient was alert and oriented throughout hospitalization; 
pain was initially managed with IV acetaminophen and then 
transitioned to oral acetaminophen once tolerating a diet. The 
patient was noted to have atrial fibrillation with bigeminy and 
received 5mg metoprolol IV while NPO for blood pressure control. 
 The patient remained stable from cardiovascular standpoint; 
vital signs were routinely monitored.
The patient remained stable from a pulmonary standpoint; vital 
signs were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization.  The patient's intake and output were closely 
monitored.  The patient's fever curves were closely watched for 
signs of infection and was prescribed ciprofloxacin and flagyl. 
The patient's blood counts were closely watched for signs of 
bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.   

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1. Lisinopril 5 mg PO DAILY 
2. Celecoxib 200 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
NO strenuous exercise while taking this medication  
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*17 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
do NOT drink alcohol while taking this medication  
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*25 Tablet Refills:*0 
4.  Celecoxib 200 mg oral DAILY  
5.  Lisinopril 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Perforated diverticulitis with 2.4cm abscess along bladder dome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.  You were admitted to the hospital with acute 
diverticulitis (inflammation of part of your intestinal wall) 
with perforation and abscess formation.  You were placed on 
bowel rest and were started on IV fluid and IV antibiotics.  
Your abdominal pain has improved and you are tolerating a 
regular diet.  

While in the hospital, you were found to have episodes of an 
irregular heart rhythm called atrial fibrillation.  Please 
follow-up with your Primary Care Provider at your scheduled 
appointment for further evaluation. 

You are now ready to be discharged home to continue your 
recovery.  Please note the discharge instructions below to 
ensure a safe recovery at home:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___